US06720320B2
1-(4-methoxybenzo(b)furan-2-yl)butan-1,3-dione
2-Acetyl-4-methoxybenzo(b)furan (2.4 g) was dissolved in ethyl acetate (50 ml), and sodium hydride (1.5 g) was added under ice-cooling. The mixture was stirred at room temperature for 10 min, and the mixture was refluxed under heating for 1 hr. After cooling, the mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and after filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (0.7 g).

reactant | 2-Acetyl-4-methoxybenzo(b)furan | 2.4 g | C(C)(=O)C1=CC2=C(O1)C=CC=C2OC | C11H10O3
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-methoxybenzo(b)furan-2-yl)butan-1,3-dione | 0.7 g | COC1=CC=CC=2OC(=CC21)C(CC(C)=O)=O | C13H12O4
